US07230023B2
(5) 4-[[Bis(allyloxy) phosphoryl]oxymethyl]furoic acid
Diallyl (4-formyl-3-furyl)methyl phosphate (97 mg, 0.34 mmol) obtained from Example 35-(4) and 2-methyl-2-butene (1.18 g, 19.9 mmol) were dissolved in tert-butyl alcohol (2.70 ml), and then a solution of sodium chlorite (122 mg, 1.35 mmol) and sodium dihydrogen phosphate dihydrate (1.034 g, 6.76 mmol) dissolved in water (1.2 ml) was added thereto with stirring in an ice bath. The mixture was stirred for 2 hours while warming spontaneously to room temperature, and partitioned between ethyl acetate and an aqueous solution of sodium chloride, then the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to chromatography on a silica gel (2 g) column (eluent; ethyl acetate) to afford the title compound (74 mg, 72% yield) as a colorless oil.

reactant | Diallyl (4-formyl-3-furyl)methyl phosphate | 0.34 mmol, 97 mg | P(=O)(OCC=C)(OCC=C)OCC1=COC=C1C=O | C12H15O6P
reactant | 2-methyl-2-butene | 19.9 mmol, 1.18 g | CC(C)=CC | C5H10
reactant | sodium chlorite | 1.35 mmol, 122 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate dihydrate | 6.76 mmol, 1.034 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | tert-butyl alcohol | 2.70 ml | C(C)(C)(C)O | C4H10O
solvent | water | 1.2 ml | O | H2O
product | 4-[[Bis(allyloxy) phosphoryl]oxymethyl]furoic acid | 74 mg, 72% yield | C(C=C)OP(=O)(OCC=C)OCC=1C=C(OC1)C(=O)O | C12H15O7P
